data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5829,"C[C:1]([O:2][H:3])=[O+:4]CCCC1CCCCC(=O)O1.O=S(=O)(O)[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2337,"BrC(Br)Br.BrCCOC1=CC=C(OCCO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C1.O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,458,"CC1CCCCC1(N1CCCC1)[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4681,"CC(C)=CCCC(C)=CCCC(C)=C[CH2:1][O:2]P1(=O)[O][Mg][O]P(=O)([O-])O1.O|((1, 2), 2)"
train,pmechdb_split_0,0,3070,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C#CCOC1=CC(C[O:2][H:3])=CC(OCC#C)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8967,"CC1=NC(=[O+:1][H:2])C([N+](=O)[O-])([N+](=O)[O-])C(O)=N1.O.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8035,"O=C([O-])C(CC1=CC=CC=C1)[NH2:1].O=C1CCC(=O)N1O[C:2](OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7922,"N.N#[C-:1].OC=[NH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1297,"COC(=O)C1(NC(=O)C2=CC=CC=C2)CCC(O[Si:1](C)(C)C)=CC1OC.O.[F-:2].[Na+]|(2, 1)"
train,pmechdb_split_0,0,8090,"[O-]CC[CH2:1][Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5679,"CN(C)[Si:1](C)(C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,500,"CC1=CC=C[N+:1]([CH:2]2CC(O)C(COCC(C)C)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3653,"C[CH:1]=[CH:2][C:3](C)=[O:4].O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,695,"ClC1=CC=C([NH2:1])C(I)=C1.O=C(NC[C:2](Cl)=[O:3])OCC1C2=C(C=CC=C2)C2=C1C=CC=C2.O=C([O-])[O-].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7082,"C1COC(=[O+:1][H:2])C1.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7690,"CCOC(=O)C1=C(C)[NH+:1]=[C:2](C)[C:3]1(C(=O)OCC)[H:4].CO.N.O.[OH-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1448,"CC1CC(OC(=O)C(F)(F)F)=[N:1]C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2549,"CC(O)=CCC(C1=CC=CC=C1)=[O:1].O=S(=O)([O-])O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4925,"CC1=C(CCO)S[C:1]([C:2](O)(C2=CC=CC=C2)[H:3])=[N+:4]1C.CCO.CC[N:5](CC)CC.N#CC1=CC=C(C=CC(=O)C2=CC=CS2)C=C1.[I-]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4984,"OC1CC[C:1](=[O:2])[CH:3]1[H:4].[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8317,"C[O:1][O:2]C.C[P:3](C)C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5318,"C=C(Br)CC1OC1C=[O:1].C=C(C[Si](C)(C)C)C(C)COCC1=CC=C(OC)C=C1.CCOCC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,4764,"CCOC(=O)CC[C:1](C)=[O+:2]CC.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2713,"CC(C)[Si](C#C[CH:1]([Si](C(C)C)(C(C)C)C(C)C)[Li:2])(C(C)C)C(C)C.CCC1C=CC=CC(O[Si](C)(C)C(C)(C)C)C(C[CH:3]=[O:4])O1.CCCC|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3878,"CCOC(=O)NN(C(OCC)=[O:1])P(OC(C#N)C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CC1=CC=C([N+](=O)[O-])C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4354,"CC[N+:1](CC)=[C:2](C)C.N#C[BH2-:3][H:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2597,"CC(C)(C)O.CCOC(=O)C(CC1=C(I)C=CC=C1)=C([O-])OCC.CCOC(=O)C(CC1=C(I)C=CC=C1)C(=O)OCC.CCOC(=O)[C-](CC1=C(I)C=CC=C1)C(=O)OCC.O=C(C=CC1=CC=CC=C1)C=CC1=CC=CC=C1.[Li][C](CC1=C(I)C=CC=C1)(C(=O)OCC)C(=O)OCC.[Li][N:1]([N:2]=CC1=CC=CC=C1)[S:3](=O)(=O)C1=CC=C(C)C=C1.[Li][O]C(OCC)=C(CC1=C(I)C=CC=C1)C(=O)OCC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7834,"COC(=O)CCC(C(C)=O)C(C)C(O)[NH2+:1][H:2].O=C([O-])O.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7238,"C1=CC=C(CCC[CH:1]=[CH2:2])C=C1.[H:3][F:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3402,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC=CC2=C1C=C[CH+:2][C:3]2(S(=O)(=O)O)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,6051,"COC1=C(Br)C=CC2=C(OC(C)C)C=C(C=[O:1])C=C21.O=C(O[O:2][H:3])C1=CC(Cl)=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9030,"CC(=O)O[C:1](CCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4117,"CC(=O)[O-:1].N=C1CCC2CCN(CCS(=O)C3=CC=CC=C3)C2C1[C:2]1([H:3])C=CC=C[C:4]1=[NH2+:5].O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1290,"CC(=O)OI1(OC(C)=O)([O+:1](CC(CC2=CC=CC=C2)NC(=O)C2=CC=CC=C2)[H:2])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9308,"CCCC(C)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1356,"CC(=O)CCC(O)[O+:1](CCO)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8193,"CN[C:1](OC)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9691,"C[C+:1](C)CCCC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,148,"CCCCCC1CC[C:1]([CH2:2][N+:3]#N)([OH:4])[CH2:5]1.O.[Cl-]|(4, 1);((1, 5), 2);((2, 3), 3)"
train,pmechdb_split_0,0,9874,"CC[O-:1].C[CH:2]([CH2:3][H:4])[Cl:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,438,"N#CC1=C[CH+:1][C:2](S(=O)(=O)O)([H:3])O1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8373,"C=C[CH2:1][Br:2].CC(C)CCCC(C)C1CCC2C3CC=C4C(C)(CC[C:3]([N:4]5CCCC5)=[CH:5]4)C3CCC12C|(4, 3);((3, 5), 1);((1, 2), 2)"
